Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / Losartan
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Cardiac catheterization

 
History of Present Illness:
___ with history of HTN, anxiety and significant family history 
of CAD who is transferred from ___ with unstable angina.  

 
She has had similar anginal symptoms in the past, and was 
evaluated with a nuclear stress test in ___ with an 
essentially normal study. She was walking yesterday and 
developed left arm pain radiating to her chest and jaw 
associated with dyspnea but no nausea and vomiting. This 
resolved with rest, but then recurred when walking around her 
house. She therefore presented to ___. There she had 
troponin T tested twice within two hours, both negative, and an 
unconcerning EKG. She was tachycardic to the 120s that improved 
after getting her home atenolol, which she had not taken due to 
running out of the pills. At ___ she got 81 mg aspirin, 
100 mg atenolol, nitro and amlodipine. A CXR showed no acute 
abnormality. ___ cardiology was consulted in ___ and 
recommended transfer to ___ for diagnostic 
catheterization.  
 
In the ED, initial vital signs were: 98.0 61 130/85 18 96% RA  
 - Labs were notable for: CBC WNL, coags WNL, trop < 0.01 x 1, 
U/A with small leuk esterase and few bacteria but nitrite 
negative  
 - Imaging: EKG with sinus rhythm and no ischemic changes  
 - The patient was given: nothing  
 - Consults: ___ cardiology who recommended admission to ___ 
service  
 
Vitals prior to transfer were: 98 64 123/70 18 98% RA  
Upon arrival to the floor, she is chest pain free and endorses 
the above story. She states that she has medication reactions 
with colonoscopy sedating meds, and would like this passed on in 
case she undergoes catheterization. Denies dysuria.
 
Past Medical History:
- Anxiety  
 - Depression  
 - Hyperlipidemia  
 - ADHD  
 - allergic rhinitis  
 - obesity  
 - hypertension  
 - left patellofemoral syndrome  
 - colon adenoma  
 - iron deficienty anemia  
 - GERD  
 - osteoporosis  
 - primary hyperparathyroidism  
 - s/p cholecystectomy  
 - appendiceal polyp  
 - hiatal hernia  
 - s/p ovarian cystectomy
 
Social History:
___
Family History:
 - father with HTN, HLD, MI in ___ requiring CABG  
 - mother with MY in ___  
 - brother with MI at age ___, died of complications prior to 
heart transplant ___ years later
 
Physical Exam:
ON ADMISSION:
VITALS: 98 165/89 68 16 99% RA  
 GENERAL: NAD  
 HEENT - MM somewhat dry, anicteric sclera, oropharynx clear  
 NECK: Supple, no LAD, JVP flat  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, no motor deficit  

ON DISCHARGE:
VITALS: 98.2 100s-130s/50s-70s ___ 95-98% RA  
 GENERAL: NAD  
 HEENT - MM somewhat dry, anicteric sclera, oropharynx clear  
 NECK: Supple, no LAD, JVP flat  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema. R radial access site c/d/I without hematoma or bruising  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, no motor deficit 
 
Pertinent Results:
ON ADMISSION:
___ 08:00PM BLOOD WBC-6.1 RBC-3.89* Hgb-12.2 Hct-36.4 
MCV-94 MCH-31.4 MCHC-33.5 RDW-13.8 RDWSD-46.7* Plt ___
___ 08:00PM BLOOD Neuts-46.0 ___ Monos-9.8 Eos-5.7 
Baso-1.0 Im ___ AbsNeut-2.82 AbsLymp-2.28 AbsMono-0.60 
AbsEos-0.35 AbsBaso-0.06
___ 08:00PM BLOOD ___ PTT-32.5 ___
___ 08:00PM BLOOD Glucose-99 UreaN-6 Creat-1.0 Na-140 K-4.1 
Cl-105 HCO3-28 AnGap-11
___ 08:00PM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9

ON DISCHARGE:
___ 06:00AM BLOOD WBC-7.3 RBC-3.65* Hgb-11.0* Hct-34.9 
MCV-96 MCH-30.1 MCHC-31.5* RDW-20.3* RDWSD-70.3* Plt ___
___ 06:00AM BLOOD Glucose-80 UreaN-16 Creat-0.9 Na-141 
K-3.7 Cl-109* HCO3-23 AnGap-13
___ 06:00AM BLOOD Calcium-9.1 Phos-4.0 Mg-1.9

OTHER STUDIES:
___ ECG: Baseline artifact. Sinus rhythm. Early R wave 
progression. No previous tracing available for comparison.  

 
Brief Hospital Course:
___ yoF with h/o hypertension, hyperlipidemia, and significant 
family history of CAD with approximately one year history of 
intermittent chest pain who initially presented to ___ 
with left arm pain radiating to her chest and jaw as well as 
dyspnea. EKG showed no ischemic changes and troponins were 
negative x2. She was transferred to ___ for cardiac 
catheterization for unstable angina.

Cardiac catheterization was via right radial access, and showed 
moderate 3 vessel disease. Findings appeared underwhelming given 
classic ACS symptoms. Patient was medically managed with ASA 81, 
metoprolol, and atorvastatin. Her home amlodipine and atenolol 
were discontinued. Her blood pressure remained under good 
control. She was chest pain free during her admission.

CHRONIC ISSUES:
# Normocytic anemia: Hgb 11 (from 12.2), unclear baseline. 
Denies melena, BRBPR or lightheadedness/dizziness. Continued on 
home ferrous sulfate 
# Anxiety: Continued home clonazepam  
# Depression: Continued home amitriptyline  
# Asymptomatic pyuria: No antibiotics.  

TRANSITIONAL ISSUES:
- New medications: ASA 81 qd, atorvastatin 80 qd, metoprolol 
succinate 50 qd
- Discontinued medications: Amlodipine, atenolol
- Please continue to monitor blood pressure. ___ consider 
restarting amlodipine or adding an ace inhibitor if she is 
persistently hypertensive
- Code status: Full
- ___ (sister) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 100 mg PO DAILY 
2. Amlodipine 7.5 mg PO DAILY 
3. Amitriptyline 100 mg PO QHS 
4. ClonazePAM 0.5 mg PO QAM 
5. ClonazePAM 1 mg PO QHS 
6. Vitamin D 3000 UNIT PO DAILY 
7. Ferrous Sulfate 325 mg PO BID 

 
Discharge Medications:
1. Amitriptyline 100 mg PO QHS 
2. Vitamin D 3000 UNIT PO DAILY 
3. Ferrous Sulfate 325 mg PO BID 
4. ClonazePAM 0.5 mg PO QAM 
5. ClonazePAM 1 mg PO QHS 
6. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
7. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 2 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
8. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Unstable angina

SECONDARY:
Mild-moderate coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were admitted 
because you were experiencing chest pain. You underwent cardiac 
catheterization, which showed mild-moderate coronary artery 
disease not requiring intervention. You were started on new 
medications to better manage your coronary artery disease and 
prevent future heart attacks. Please see your medication list 
for changes to your regimen.

Please see below for your scheduled or pending appointments with 
your PCP and cardiology. 

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___